US08071605B2
1-[1-(2-Methoxyethyl)-1H-imidazol-2-yl]ethanone
A solution of 30 ml (75 mmol) of 2.5 M n-butyllithium in hexanes was added slowly to a solution of 8.48 g (61.3 mmol) 1-(2-Methoxyethyl)-1H-imidazole (WO 2003055876 A1 in 200 ml THF cooled in a dry ice-acetone bath. After stirring 1 hour, 8 ml (75 mmol) of N-methoxy-N-methylacetamide was added quickly, and the solution was allowed to warm to room temperature over 30 min. After quenching with aqueous NH4Cl, the mixture was diluted with water and extracted twice with EtOAc, which was washed with brine, dried (MgSO4) and concentrated to give an oil that was chromatographed on silica gel (100% DCM followed by gradient elution to 50% EtOAc in DCM). Product (8.5 g) was obtained as a mobile oil. MS (ES) (M+H)+: 169 for C8H12CN2O2

reactant | n-butyllithium | 75 mmol, 2.5 M, 30 ml | C(CCC)[Li]
reactant | 1-(2-Methoxyethyl)-1H-imidazole | 61.3 mmol, 8.48 g | COCCN1C=NC=C1 | C6H10N2O
reactant | N-methoxy-N-methylacetamide | 75 mmol, 8 ml | CON(C(C)=O)C | C4H9NO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-[1-(2-Methoxyethyl)-1H-imidazol-2-yl]ethanone | 8.5 g | COCCN1C(=NC=C1)C(C)=O | C8H12N2O2
